US05021478
2-Hydroxy-4-[3-(1-methoxy-2,2,6,6-tetramethylpiperidin-4-yloxy) -2-hydroxypropoxy]benzophenone
The title compound is prepared by reaction of 2,4-dihydroxybenzophenone with epichlorohydrin followed by reaction with 4-hydroxy-1-methoxy-2,2,6,6-tetramethylpiperidine.

reactant | 2,4-dihydroxybenzophenone | OC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)O | C13H10O3
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
reactant | 4-hydroxy-1-methoxy-2,2,6,6-tetramethylpiperidine | OC1CC(N(C(C1)(C)C)OC)(C)C | C10H21NO2
product | 2-Hydroxy-4-[3-(1-methoxy-2,2,6,6-tetramethylpiperidin-4-yloxy) -2-hydroxypropoxy]benzophenone | OC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1)OCC(COC1CC(N(C(C1)(C)C)OC)(C)C)O | C26H35NO6
